Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
portal vein thrombosis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ from ___ ___ alcohol abuse and 
HCV, c/b esophageal and gastric varices w h/o bleeds s/p 
banding, as well as portal hypertensive gastropathy, who is now 
admitted w portal thrombus.
.
Pt has been in his USOH (continues to drink), only c/o 
occasional "pinching" feeling in his upper abdomen as well as 
fatigue. A CT abdomen on ___ done to eval for ___ revealed a 
portal vein thrombus at the bifurcation w possible occlusion of 
the right main portal vein. Finding confirmed by Doppler U/S. 
Otherwise, no F/C, no CP/SOB, no N/V/D/Constip, no bloody stools 
or melena, no weight changes. Continues to drink because he 
feels "bored."
 
Past Medical History:
Cirrhosis c/b esophageal varices, no h/o ascites
HCV
EtOH abuse

 
Social History:
___
Family History:
Nc
 
Physical Exam:
VS: 97.9, 124/86, 66, 18, 100% on RA
GEN: pleasant, lying in bed supine in NAD
SKIN: spider nevi on upper chest, no palmar erythema, scars on 
back
HEENT: NC/AT, anicteric sclera, PERRL, EOMI, MMM, OP clear
NECK: supple, no LAD, normal JVP
CV: RRR, normal S1S2, no M/R/G
CHEST: CTAB, no W/R/R
ABD: soft, NT/ND, no HSM, NABS
EXTR: WWP, no C/C/E, 2+ DP/rad pulses b/l
NEURO: AOx3, CNII-XII intact, ___ Motor strength in ___ b/l, 
2+ DTR in ___, no asterixis

 
Pertinent Results:
LABS:
___ 02:15PM BLOOD WBC-2.3* RBC-4.11* Hgb-11.5* Hct-35.7* 
MCV-87 MCH-28.0 MCHC-32.2 RDW-22.4* Plt Ct-60*
___ 02:15PM BLOOD Neuts-67 Bands-0 Lymphs-16* Monos-11 
Eos-4 Baso-2 ___ Myelos-0
___ 02:15PM BLOOD Hypochr-1+ Anisocy-3+ Poiklo-NORMAL 
Macrocy-1+ Microcy-1+ Polychr-NORMAL
___ 02:15PM BLOOD ___ PTT-33.4 ___
___ 02:15PM BLOOD UreaN-7 Creat-0.6 Na-138 K-3.4 Cl-100 
HCO3-28
___ 02:15PM BLOOD ALT-43* AST-124* AlkPhos-170* 
TotBili-2.4*
___ 06:45AM BLOOD Albumin-3.3* Calcium-8.1* Phos-3.5 Mg-1.6
___ 02:15PM BLOOD TotProt-7.9 Albumin-3.5 Globuln-4.4*
.
HYPERCOAGULABILITY W/U:
___ 02:15PM BLOOD ProtCFn-PND ProtSFn-PND
___ 02:15PM BLOOD Lupus-PND
___ 02:15PM BLOOD Homocys-9.5
___ 02:15PM BLOOD PROTHROMBIN MUTATION ANALYSIS-PND
___ 02:15PM BLOOD FACTOR V LEIDEN-PND

 
Brief Hospital Course:
In short, Mr ___ is a ___ w ___ ___ alcohol abuse and HCV, 
c/b varices w h/o bleeds s/p banding, who was found to have a 
portal thrombus on recent CT abd done for ___ evaluation. He was 
admitted for observation and potential TIPS placement. Given his 
active alcohol use and poor insight into his condition, the 
decision was made NOT to place a TIPS and NOT to anticoagulate 
him at this time, as coumadin would require regular INR checks. 
Hypercoagulability studies ordered before admission, outpatient 
f/u to results are needed. Pt remained asymptomatic, 
hemodynamically stable. No changes were made in his medications.
 
Medications on Admission:
Folate 1mg PO daily
Nadolol 40mg PO daily
Omeprazole 
MVI w Fe/Mineral 0.4-18-3500u 1 tab daily

 
Discharge Medications:
1. Nadolol 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Portal vein thrombus
Gastroesophageal varices

Secondary:
___ ___ EtOH and HCV

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for monitoring given a new clot in your portal 
vein. We also considered possible treatment. Given your active 
alcohol use, however, we do not think that it is appropriate at 
this point.
.
Please stop drinking!!!
.
No changes were made to your medications. Please continue to 
take your medications as prescribed by your doctors.
.
Please report immediately to the hospital if you experience 
bloody vomiting, diarrhea, abdominal pain, chest pain or any 
other concerning symptom.  
 
Followup Instructions:
___